US07157487B2
Ethyl (2-(5-fluoro-2-methylphenylamino)-4-fluoro-6-benzoxazolyl)acetate (215 mg, 0.62 mmol) was dissolved in THF/methanol (1/1, 20 ml). To the resulting solution was added 0.25N NaOH (12.4 ml, 3.10 mmol). The resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was poured in 1N HCl to acidify the mixture, followed by extraction with chloroform/methanol (10/1). The extract was dried over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent to give (2-(5-fluoro-2-methylphenylamino)-4-fluoro-6-benzoxazolyl)acetic acid (165 mg, 83%) as a pale brown solid.

reactant | Ethyl (2-(5-fluoro-2-methylphenylamino)-4-fluoro-6-benzoxazolyl)acetate | 0.62 mmol, 215 mg | FC=1C=CC(=C(C1)NC=1OC2=C(N1)C(=CC(=C2)CC(=O)OCC)F)C | C18H16F2N2O3
reactant | NaOH | 3.10 mmol, 0.25N, 12.4 ml | [OH-].[Na+]
solvent | THF methanol | 20 ml | C1CCOC1.CO
solvent | HCl | 1N | Cl | ClH
product | (2-(5-fluoro-2-methylphenylamino)-4-fluoro-6-benzoxazolyl)acetic acid | 165 mg, 83% | FC=1C=CC(=C(C1)NC=1OC2=C(N1)C(=CC(=C2)CC(=O)O)F)C | C16H12F2N2O3
